US04454120
A solution of N-(tert-butyloxycarbonyl)-D-methionine (20 g.) in tetrahydrofuran was added dropwise with stirring to a suspension of potassium hydride (35% in mineral oil, 27.5 g.) in tetrahydrofuran (160 ml.) containing 18-crown-6 ether (1 g.) maintained at ice bath temperature. Stirring was continued for one and one quarter hours. Methyl iodide (5 ml.) was added, stirring was continued, and the temperature was allowed to rise to room temperature during 22 hours. The pH was adjusted to 3 with aqueous citric acid (1 M) with cooling. The mixture was partitioned between ether and water. The ether layer was extracted with aqueous sodium bicarbonate. The aqueous sodium bicarbonate layer was extracted with ether. The latter ether layer was washed with water, dried and stripped of ether, affording N-(tert-butyloxycarbonyl)-N-methyl-D-methionine as a syrup (15.5 g.).

reactant | N-(tert-butyloxycarbonyl)-D-methionine | 20 g | C(C)(C)(C)OC(=O)N[C@H](CCSC)C(=O)O | C10H19NO4S
reactant | potassium hydride | 27.5 g | [H-].[K+]
reactant | 18-crown-6 ether | 1 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | Methyl iodide | 5 ml | CI | CH3I
reactant | citric acid | 1 M | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
product | N-(tert-butyloxycarbonyl)-N-methyl-D-methionine | C(C)(C)(C)OC(=O)N([C@H](CCSC)C(=O)O)C | C11H21NO4S
